US07795267B2
1,1-Dimethylethyl 4-[[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]amino]-1H-benzimidazole-1-carboxylate
To a solution of 1,1-dimethylethyl 4-amino-1H-benzimidazole-1-carboxylate (0.12 g, 0.50 mmol) in tetrahydrofuran (10 ml) were added diisopropylethylamine (90 μL, 0.50 mmol) and 4-nitrophenyl chloroformate (0.11 g, 0.50 mmol), and the mixture was stirred at room temperature for 4 hours. Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (88 mg, 0.30 mmol) and diisopropylethylamine (90 μL, 0.50 mmol) were sequentially added thereto, and the mixture was stirred at room temperature overnight. To the reaction solution were added ethyl acetate (50 mL) and a 0.5 M aqueous sodium hydrogen carbonate solution (50 mL), and the obtained crystals were collected by filtration. The crude crystals were sequentially washed with a 0.5 M aqueous sodium hydrogen carbonate solution, water and ethyl acetate to obtain the title compound (0.11 g, yield 65%).

reactant | 1,1-dimethylethyl 4-amino-1H-benzimidazole-1-carboxylate | 0.50 mmol, 0.12 g | NC1=CC=CC=2N(C=NC21)C(=O)OC(C)(C)C | C12H15N3O2
reactant | diisopropylethylamine | 0.50 mmol, 90 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrophenyl chloroformate | 0.50 mmol, 0.11 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.30 mmol, 88 mg | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | diisopropylethylamine | 0.50 mmol, 90 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl 4-[[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]amino]-1H-benzimidazole-1-carboxylate | 0.11 g, yield 65% | O=C1OC(C2N1CCN(C2)C(=O)NC2=CC=CC=1N(C=NC12)C(=O)OC(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H31N5O5
